US07060827B2
In like manner to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, 2,4-dichloro-5-fluoropyrimidine and 6-aminocoumarin were reacted to yield N2,N4-bis(coumarin-6-yl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (DMSO-d6): δ 8.17 (d, 2H, J=3.6 Hz), 7.97–7.74 (m, 5H), 7.40 (1H, d, J=8.7 Hz), 7.30 (d, 1H, J=9 Hz), 6.50 (d, 1H, J=10.2 Hz), 6.40 (d, 1H, J=9.3 Hz); LCMS: ret. time: 19.05 min.; purity: 94%; MS (m/e): 417 (MH+).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 6-aminocoumarin | NC=1C=C2C=CC(OC2=CC1)=O | C9H7NO2
product | N2,N4-bis(coumarin-6-yl)-5-fluoro-2,4-pyrimidinediamine | O1C(=O)C=CC2=CC(=CC=C12)NC1=NC=C(C(=N1)NC=1C=C2C=CC(OC2=CC1)=O)F | C22H13FN4O4
